US04623662
To a cold solution of 5.26 g of 3,3-dimethylbutylamine and 21.0 ml of triethylamine in 180 ml of methylene chloride was added dropwise a solution of p-neopentylbenzoylchloride in 20 ml of methylene chloride. The resulting mixture was stirred at room temperature for 5 hours and diluted with water. The organic layer was washed with 3N hydrochloric acid, water, 1N sodium hydroxide, brine, dried, and evaporated to yield a solid. The solid was recrystallized from ethylacetate:hexane to yield N-(3,3-dimethylbutyl)-4-(2,2-dimethylpropyl)benzamide as a beige solid, mp 124°-126° C.

reactant | 3,3-dimethylbutylamine | 5.26 g | CC(CCN)(C)C | C6H15N
reactant | triethylamine | 21.0 ml | C(C)N(CC)CC | C6H15N
reactant | p-neopentylbenzoylchloride | C(C(C)(C)C)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(3,3-dimethylbutyl)-4-(2,2-dimethylpropyl)benzamide | CC(CCNC(C1=CC=C(C=C1)CC(C)(C)C)=O)(C)C | C18H29NO
